US08466181B2
b) 6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid
A solution of lithium hydroxide monohydrate (29 mg, 0.671 mmol) in water (1.3 mL) was added dropwise to a suspension of methyl 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate (127 mg, 0.336 mmol) in THF (5 mL) and methanol (1 mL). The reaction mixture was then stirred at room temperature for 1 h and was then evaporated and the residue dissolved in water, acidified with HCl (1 N), and the resulting precipitate filtered off to afford the title product (108 mg, 88%) as a white solid. MS: m/e=363.3 [M−H]−.

reactant | lithium hydroxide monohydrate | 0.671 mmol, 29 mg | O.[OH-].[Li+]
reactant | methyl 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate | 0.336 mmol, 127 mg | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)OC)C=C1)C | C19H15FN6O2
solvent | water | 1.3 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 108 mg, 88% | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
